US08604069B2
(A-53-16) tert-Butyl 3-(3-benzyloxypropyl)-6-[3-(2,2-dimethylpropyl)cyclobutyl]-4-oxo-5-hexynoate
1-(2,2-dibromovinyl)-3-(2,2-dimethylpropyl)cyclobutane (5 g) and tetrahydrofuran (50 mL) were mixed. To the mixture was added n-butyllithium (1.65 M in hexane) (20.5 mL) dropwise at −78° C. The mixture was stirred at ice temperature for 30 min. and a solution of tert-butyl 6-benzyloxy-3-(methoxymethylcarbamoyl)hexanoate (4.13 g) in tetrahydrofuran (25 mL) was added dropwise to the mixture. After stirring at ice temperature for 20 min., saturated aqueous ammonium chloride was added to the reaction mixture. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, then dried over magnesium sulfate. The magnesium sulfate was filtered off and the filtrate was concentrated in vacuo. The resultant residue was purified by silica gel column chromatography (Eluent: ethyl acetate/hexane=1/20) to give the title compound (3.45 g).

reactant | 1-(2,2-dibromovinyl)-3-(2,2-dimethylpropyl)cyclobutane | 5 g | BrC(=CC1CC(C1)CC(C)(C)C)Br | C11H18Br2
reactant | n-butyllithium | 1.65 M, 20.5 mL | C(CCC)[Li]
reactant | tert-butyl 6-benzyloxy-3-(methoxymethylcarbamoyl)hexanoate | 4.13 g | C(C1=CC=CC=C1)OCCCC(CC(=O)OC(C)(C)C)C(NCOC)=O | C20H31NO5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | tert-Butyl 3-(3-benzyloxypropyl)-6-[3-(2,2-dimethylpropyl)cyclobutyl]-4-oxo-5-hexynoate | 3.45 g | C(C1=CC=CC=C1)OCCCC(CC(=O)OC(C)(C)C)C(C#CC1CC(C1)CC(C)(C)C)=O | C29H42O4
